US08106070B2
1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (353 mg, 0.43 mmol) was added to a degassed, ambient temperature solution of methyl 2-(acetylamino)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate (1.5 g, 4.3 mmol), potassium carbonate (2.39 g, 17.3 mmol) and tert-butyl (4-bromo-1-methyl-1H-pyrazol-3-yl)carbamate (1.19 g, 4.3 mmol) in wet N,N-dimethylformamide (40 mL). After stirring at 85° C. overnight, the reaction mixture was cooled, diluted with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded methyl 2-(acetylamino)-3-(4-{3-[(tert-butoxycarbonyl)amino]-1-methyl-1H-pyrazo 1-4-yl}phenyl)propanoate.

reactant | methyl 2-(acetylamino)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate | 4.3 mmol, 1.5 g | C(C)(=O)NC(C(=O)OC)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H26BNO5
reactant | potassium carbonate | 17.3 mmol, 2.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl (4-bromo-1-methyl-1H-pyrazol-3-yl)carbamate | 4.3 mmol, 1.19 g | BrC=1C(=NN(C1)C)NC(OC(C)(C)C)=O | C9H14BrN3O2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-(acetylamino)-3-(4-{3-[(tert-butoxycarbonyl)amino]-1-methyl-1H-pyrazo 1-4-yl}phenyl)propanoate | C(C)(=O)NC(C(=O)OC)CC1=CC=C(C=C1)C=1C(=NN(C1)C)NC(=O)OC(C)(C)C | C21H28N4O5
